US06630461B2
37.2 (t-butoxycarbonylamino)-benzene ethanol
4-(t-butoxycarbonylamino)-benzeneacetic acid (2.9 g, 11.4 mmoles) is dissolved in 10 ml of anhydrous THF at 0° C. and added to a suspension of LiAlH4 (0.52 g, 13.6 mmoles) in 30 ml of THF. The reaction mixture is agitated at ambient temperature for 1.5 hours. 50 ml of ethyl acetate then 20 ml of 2N soda are added to the medium. The expected product is extracted from the organic phase, which is then washed with 3 times 15 ml of water. The organic phase is dried and the solvent evaporated off under reduced pressure. Then the reaction product is purified on silica gel in a dichloromethane/methanol mixture (95/5). 1.1 g (40%) is thus obtained in the form of a colourless oil.

reactant | 4-(t-butoxycarbonylamino)-benzeneacetic acid | 11.4 mmoles, 2.9 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C13H17NO4
reactant | LiAlH4 | 13.6 mmoles, 0.52 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (t-butoxycarbonylamino)-benzene ethanol | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)CCO | C13H19NO3
